US07528143B2
(4-Chloro-3-methyl-phenyl)-(2-chloro-5-methyl-pyrimidin-4-yl)-amine (Intermediate 73)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.34 g, 2.34 mmol), 4-bromo-1-chloro-2-methyl-benzene (0.58 g, 2.8mmol), Pd2(dba)3 (0.21 g, 0.23 mmol), Xantphos (0.47 g, 0.47 mmol) and cesium carbonate (2.3 g, 7 mmol) were suspended in dioxane (9 mL) microwaved at 160° C. for 20 min. The reaction mixture was cooled to room temperature and centrifuged down. Solvents were then decanted and evaporated. Resulting residue was purified by flash chromatography on silica gel to afford title compound as yellow solids (0.24 g, 38%).

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 2.34 mmol, 0.34 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-bromo-1-chloro-2-methyl-benzene | 2.8mmol, 0.58 g | BrC1=CC(=C(C=C1)Cl)C | C7H6BrCl
reactant | Xantphos | 0.47 mmol, 0.47 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 7 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.23 mmol, 0.21 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (4-Chloro-3-methyl-phenyl)-(2-chloro-5-methyl-pyrimidin-4-yl)-amine | 0.24 g, 38% | ClC1=C(C=C(C=C1)NC1=NC(=NC=C1C)Cl)C | C12H11Cl2N3
